US04007204
e. Preparation of 2-ethyl-3-(3,5-dimethyl-4-hydroxy-benzoyl)-benzo[b]thiophene
Into a half-litre flask equipped with a condenser, a mechanical stirrer and a thermometer, 25 g (0.777 mol) of 2-ethyl-3-(3,5-dimethyl-4-methoxy-benzoyl)benzo[b]thiophene were introduced with 125 g of pyridine hydrochloride.

reactant | 2-ethyl-3-(3,5-dimethyl-4-methoxy-benzoyl)benzo[b]thiophene | 0.777 mol, 25 g | C(C)C1=C(C2=C(S1)C=CC=C2)C(C2=CC(=C(C(=C2)C)OC)C)=O | C20H20O2S
reactant | pyridine hydrochloride | 125 g | Cl.N1=CC=CC=C1
product | 2-ethyl-3-(3,5-dimethyl-4-hydroxy-benzoyl)-benzo[b]thiophene | C(C)C1=C(C2=C(S1)C=CC=C2)C(C2=CC(=C(C(=C2)C)O)C)=O | C19H18O2S
